US07098203B2
Isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-isopropyl-4-phenylazepane
Mixture of isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane (3 mg) and acetone (1.2 mg) in methanol (0.15 mL) was stirred at room temperature for 0.5 hr, then sodium cyanoborohydride (1.0 M solution in THF, 0.02 mL) was added followed by 1 drop of trifluoroacetic acid. The mixture was stirred at 65° C. for overnight and concentrated under vacuum. Then saturated sodium bicarbonate solution and dichloromethane was added to the mixture and the organic layer was separated. The aqueous layer was extracted with dichloromethane 2 times and the combined organic layers were dried over magnesium sulfate, filtered and concentrated under vacuum to give the product as a clear sticky oil (2.5 mg, 76% yield).

reactant | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane | 3 mg | FC(C=1C=C(COCC2(CCNCCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H23F6NO
reactant | acetone | 1.2 mg | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.0 M, 0.02 mL | C(#N)[BH3-].[Na+]
solvent | methanol | 0.15 mL | CO | CH4O
catalyst | trifluoroacetic acid | 1 drop | FC(C(=O)O)(F)F | C2HF3O2
product | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-isopropyl-4-phenylazepane | 2.5 mg, 76% yield | FC(C=1C=C(COCC2(CCN(CCC2)C(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C25H29F6NO
